US08003796B2
Step B. Preparation of 4-hydroxy-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one
A stirring suspension of 4-(benzyloxy)-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one (3.0 g, 8.44 mmol) and palladium on activated carbon (1.63 g, 10 wt. %, wet, Aldrich) in THF (150 mL) and methanol (250 mL) was placed under hydrogen (balloon) for 1 h. The resulting mixture was purged with nitrogen and then diluted with THF (150 mL) and methanol (50 mL). After stirring under nitrogen for 30 min, the mixture was filtered through a pad of CELITE® 545 filter aid and the filtrate was evaporated under reduced pressure to give 2.28 g crude product as a dark greenish solid. MS (ESI) 266 (M+H).

reactant | 4-(benzyloxy)-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one | 8.44 mmol, 3.0 g | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C19H17NO4S
catalyst | palladium on activated carbon | 1.63 g | [Pd] | Pd
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | methanol | 250 mL | CO | CH4O
product | 4-hydroxy-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one | 2.28 g | OC1=CC(N(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C12H11NO4S
